US05723497
Preparation of 4-(2-hydroxyethylamino)-1-dodecyloxy-2-methyl-2-butanol (IIa-10):
A 300-ml two-necked flask equipped with a stirrer was charged with 7.51 g (0.1 mol) of glycine, 8.3 g (0.1 mol) of 48% NaOH and 200 ml of ethanol. While stirring the mixture at 80° C., an ethanol solution of 2.70 g (10 mmol) of tetradecyl glycidyl ether was added, and the resultant mixture was stirred for 3 hours. After ethanol was distilled off under reduced pressure, methanol and hydrochloric acid was added to the mixture to acidify it. The mixture was subjected to extraction with chloroform. The resultant extract was concentrated under reduced pressure, and the residue was then purified by column chromatography on silica gel, thereby obtaining 1.17 g (yield: 30.7%) of the title compound [(IIa-10) hydrochloride].

reactant | glycine | 0.1 mol, 7.51 g | NCC(=O)O | C2H5NO2
reactant | NaOH | 0.1 mol, 8.3 g | [OH-].[Na+]
reactant | tetradecyl glycidyl ether | 10 mmol, 2.70 g | C(C1CO1)OCCCCCCCCCCCCCC | C17H34O2
reactant | hydrochloride | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | 4-(2-hydroxyethylamino)-1-dodecyloxy-2-methyl-2-butanol | 1.17 g, yield: 30.7% | OCCNCCC(COCCCCCCCCCCCC)(O)C | C19H41NO3
